US06420383B1
Ethyl-3-amino-3-phenyl-2-[methyl(thienylmethyl)amino]-2-propenoate
Ethyl-2-[methyl(thienylmethyl)amino]-cyanoacetate (0.014 mol, 3.4 g) was dissolved in 100 mL of ether and added to 9.5 mL of 3M PhMgBr, and the resulting mixture was refluxed for 18 h. The reaction was cooled, quenched with sat. NH4Cl solution and extracted with ether. The organics were dried, concentrated, and chromatographed using 1:1 hexanes:ethyl acetate to give 1.4 g of product. 1H NMR (300 MHz) CDCl3: 7.58 (d, 2H), 7.4 (m, 3H), 7.21 (d, 1H), 6.89 (m, 2H), 5.0 (s, 1H), 4.28 (t, 2H), 3.85 (s, 2H), 2.75 (t, 2H), 2.38 (s, 3H).

reactant | Ethyl-2-[methyl(thienylmethyl)amino]-cyanoacetate | 0.014 mol, 3.4 g | C(C)OC(C(N(CC=1SC=CC1)C)C#N)=O | C11H14N2O2S
reactant | PhMgBr | 3M, 9.5 mL | C1(=CC=CC=C1)[Mg]Br
solvent | ether | 100 mL | CCOCC | C4H10O
product | Ethyl-3-amino-3-phenyl-2-[methyl(thienylmethyl)amino]-2-propenoate | 1.4 g | C(C)OC(C(=C(C1=CC=CC=C1)N)N(CC=1SC=CC1)C)=O | C17H20N2O2S
